US06552049B2
{7-[(2-Chloro-2-propenyl)oxy]-2,3-dihydro-1,4-benzodioxin-2-yl}methanol
To a solution of 1.36 g (7.47 mmole) of (2S)-(7-hydroxy-2,3-dihydro-1,4-benzodioxin-2-yl)methanol in 50 mL of N,N-dimethylformamide was added 0.36 g (9.0 mmole) of 60% sodium hydride/mineral oil dispersion and the mixture stirred for 30 minutes at room temperature under nitrogen. Next 1.0 mL (11 mmole) of 2,3-dichloro-1-propene was added and the reaction heated at 60° C. under nitrogen for 40 hours. The solvent was removed in vacuum and replaced with 200 mL of methylene chloride. The solution was washed with 50 mL of 0.1 N aqueous HCl and with water, dried over sodium sulfate, filtered and concentrated in vacuum to ˜2 g of a very dark oil. The oil was column chromatographed on silica gel with 20% hexane/methylene chloride and the product fractions combined and concentrated in vacuum to give 1.1 g of the (S)-enantiomer of the title compound as a pale yellow oil. 1H-NMR (d6-DMSO): doublet 7.76 δ (1H); doublet 6.53 δ (1H); doublet of doublets 6.45 δ (1H); doublet 5.66 δ (1H); doublet 5.48 δ (1H); broad singlet 5.04 δ (1H); singlet 4.6 δ (2H); doublet of doublets 4.25 δ (1H); multiplet 4.12 δ (1H); doublet of doublets 3.92 δ (1H); multiplet 3.6 δ (2H).

reactant | (2S)-(7-hydroxy-2,3-dihydro-1,4-benzodioxin-2-yl)methanol | 7.47 mmole, 1.36 g | OC=1C=CC2=C(O[C@H](CO2)CO)C1 | C9H10O4
reactant | sodium hydride | 9.0 mmole, 0.36 g | [H-].[Na+]
reactant | 2,3-dichloro-1-propene | 11 mmole, 1.0 mL | ClC(=C)CCl | C3H4Cl2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | {7-[(2-Chloro-2-propenyl)oxy]-2,3-dihydro-1,4-benzodioxin-2-yl}methanol | ClC(COC=1C=CC2=C(OC(CO2)CO)C1)=C | C12H13ClO4
